US07842713B2
2-Methyl-N-(5-methylpyridin-2-yl)-4-(4-(methylsulfonyl)-phenoxy)-benzofuran-6-carboxamide
2-Amino-5-methylpyridine (289 mg, 2.67 mmol) was dissolved in DCE (10 mL) at 0° C., then Al(CH3)2Cl (2.67 mL, 1M in hexanes) was added drop wise. After the addition, the ice-bath was removed, and the mixture was stirred for 30 min at room temperature. Ethyl 2-methyl-4-[4-(methylsulfonyl)phenoxy]-1-benzofuran-6-carboxylate (100 mg, 0.267 mmol) was added and the stirring was continued for 14 h. The reaction was quenched with potassium sodium tartrate tetrahydrate (20% w/w) cautiously. The product was extracted with CHCl3, washed with brine and dried over MgSO4. The crude product was purified by gradient silica gel chromatography using CHCl3/MeOH (100/0 to 98/2) to give the title compound (100 mg, 86%) as a white solid. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 2.32 (s, 3 H) 2.48 (s, 3 H) 3.07 (s, 3 H) 6.24 (s, 1 H) 7.08-7.16 (m, 2 H) 7.48 (d, J=1.32 Hz, 1 H) 7.57 (dd, J=8.29, 2.35 Hz, 1 H) 7.81-7.97 (m, 3 H) 8.12 (d, J=2.35 Hz, 1 H) 8.25 (d, J=8.29 Hz, 1 H) 8.44 (s, 1 H). LCMS for C23H20N2O5S m/z 437.4 (M+H)+.

reactant | 2-Amino-5-methylpyridine | 2.67 mmol, 289 mg | NC1=NC=C(C=C1)C | C6H8N2
reactant | Al(CH3)2Cl | 1M, 2.67 mL | [Al](C)(C)Cl
reactant | Ethyl 2-methyl-4-[4-(methylsulfonyl)phenoxy]-1-benzofuran-6-carboxylate | 0.267 mmol, 100 mg | CC=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)OC2=CC=C(C=C2)S(=O)(=O)C | C19H18O6S
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | 2-Methyl-N-(5-methylpyridin-2-yl)-4-(4-(methylsulfonyl)-phenoxy)-benzofuran-6-carboxamide | 100 mg, 86% | CC=1OC2=C(C1)C(=CC(=C2)C(=O)NC2=NC=C(C=C2)C)OC2=CC=C(C=C2)S(=O)(=O)C | C23H20N2O5S
